US04978672
Using methodology described e.g. in example 34, 4-(3-pyridylmethyl)-benzonitrile is reacted with methyl iodide to obtain 4-[1-(3-pyridyl)-ethyl]-benzonitrile.

reactant | 4-(3-pyridylmethyl)-benzonitrile | N1=CC(=CC=C1)CC1=CC=C(C#N)C=C1 | C13H10N2
reactant | methyl iodide | CI | CH3I
product | 4-[1-(3-pyridyl)-ethyl]-benzonitrile | N1=CC(=CC=C1)C(C)C1=CC=C(C#N)C=C1 | C14H12N2
